US07064124B2
N-(5-Hydroxycarbonylpyridin-2-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-hydroxybenzamide
N-(5-Hydroxycarbonylpyridin-2-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide (0.085 g, 0.172 mmol) was dissolved in methanol (6 ml) and after adding thereto an aqueous saturated sodium hydrogencarbonate solution (2 ml), the solution was stirred at room temperature for 3 hours. After the completion of reaction, the reaction solution was diluted with a 2N hydrochloric acid solution and the aqueous layer was rendered acidic (pH=3 to 4) and then extracted with ethyl acetate. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was recrystallized from ether to obtain the titled compound (0.062 g, 0.137 mmol, 79%).

reactant | N-(5-Hydroxycarbonylpyridin-2-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide | 0.172 mmol, 0.085 g | OC(=O)C=1C=CC(=NC1)NC(C1=C(C=CC(=C1)CC=1C(C(=C(C(C1C)=O)OC)OC)=O)OC(C)=O)=O | C25H22N2O9
reactant | sodium hydrogencarbonate | 2 ml | C(O)([O-])=O.[Na+]
solvent | methanol | 6 ml | CO | CH4O
solvent | hydrochloric acid | 2N | Cl | ClH
product | N-(5-Hydroxycarbonylpyridin-2-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-hydroxybenzamide | 0.137 mmol, 0.062 g, 79% | OC(=O)C=1C=CC(=NC1)NC(C1=C(C=CC(=C1)CC=1C(C(=C(C(C1C)=O)OC)OC)=O)O)=O | C23H20N2O8
